US07511048B2
To a stirring solution of 2-[6-(3-chloro-4-fluoro-phenylamino)-10-thia-2,3,7,9-tetraazacyclopenta[a]fluoren-2-yl]-ethanol (2.53 g, 6.11 mmol) in acetonitrile (60 mL) was added methane sulfonic anhydride (2.1 g, 12.23 mmol) and pyridine (0.965 g, 12.23 mmol). It was stirred at room temperature for 2 h. The solid was filtered and further triturated with diethyl ether, oven dried overnight to give methanesulfonic acid 2-[6-(3-chloro-4-fluoro-phenylamino)-10-thia-2,3,7,9-tetraaza-cyclopenta[a]fluoren-2-yl]-ethyl ester as brown solid (2.0 g, 66.5%). 1H-NMR (DMSO-d6) δ 9.30 (bs, 1H), 8.90 (s, 1H), 8.80 (t, 1H), 8.40 (d, 1H), 7.90 (m, 1H), 7.80 (d, 1H), 7.60 (m, 1H), 7.40 (t, 1H), 5.00 (t, 2H), 3.90 (t, 2H), 3.80 (s, 3H); LCMS RT=3.29 min; [M+H]+=492.1.

reactant | 2-[6-(3-chloro-4-fluoro-phenylamino)-10-thia-2,3,7,9-tetraazacyclopenta[a]fluoren-2-yl]-ethanol | 6.11 mmol, 2.53 g | ClC=1C=C(C=CC1F)NC1=C2C=3C=CC=4C(C3SC2=NC=N1)=CN(N4)CCO | C19H13ClFN5OS
reactant | methane sulfonic anhydride | 12.23 mmol, 2.1 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | pyridine | 12.23 mmol, 0.965 g | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | methanesulfonic acid 2-[6-(3-chloro-4-fluoro-phenylamino)-10-thia-2,3,7,9-tetraaza-cyclopenta[a]fluoren-2-yl]-ethyl ester | 2.0 g, 66.5% | ClC=1C=C(C=CC1F)NC1=C2C=3C=CC=4C(C3SC2=NC=N1)=CN(N4)CCOS(=O)(=O)C | C20H15ClFN5O3S2
